US07129268B2
A solution of 2-chlorophenol (25.7 g, 200 mmol), potassium carbonate (41.4 g, 300 mmol) and ethyl bromoacetate (35.1 g, 210 mmol) in 2-butanone (240 ml) was stirred at 100° C. for 24 h. The reaction mixture was filtered and evaporated. The residue was dissolved in toluene (100 ml), washed with water (3×25 ml), dried and evaporated. The residue (37 g, 172 mmol) was dissolved in dichloromethane (50 ml) and chlorosulfonic acid (93 g, 800 mmol) was added slowly at −10° C. The reaction mixture was stirred at room temperature for 1 h. Ice water (25 ml) was added carefully and the mixture was extracted with dichloromethane (3×100 ml). The combined organic phases were washed with water, dried and evaporated to give crude (4-chlorosulfonyl-2-chloro-phenoxy)-acetic acid ethyl ester as an oil in 47.5 g yield.

reactant | 2-chlorophenol | 200 mmol, 25.7 g | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | potassium carbonate | 300 mmol, 41.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 210 mmol, 35.1 g | BrCC(=O)OCC | C4H7BrO2
reactant | chlorosulfonic acid | 800 mmol, 93 g | ClS(=O)(=O)O | ClHO3S
solvent | 2-butanone | 240 ml | CC(CC)=O | C4H8O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (4-chlorosulfonyl-2-chloro-phenoxy)-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)S(=O)(=O)Cl)Cl)=O | C10H10Cl2O5S
